US06313094B1
[Process 1] Boc-Oic-OH
In an acetic acid solution containing 2.0 g of L-indoline-2-carboxylic acid, 5% Rh/Al2O3 was added and the resultant mixture was stirred for 3 days in a hydrogen gas atmosphere (4.5 kg/cm2). The reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The resultant residue was tert-butoxycarbonylated to give 0.6 g of the title compound.

reactant | L-indoline-2-carboxylic acid | 2.0 g | C1[C@H](NC2=CC=CC=C21)C(=O)O | C9H9NO2
reactant | hydrogen | [H][H] | H2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Rh/Al2O3 | [Rh] | Rh
product | Boc-Oic-OH | 0.6 g | N1([C@@H](CC2CCCCC12)C(=O)O)C(=O)OC(C)(C)C | C14H23NO4
